US04996074
Non-Solvent Fractionation of Cottonseed Oil Stearine
100 pounds of commercial grade hexane fractionated cottonseed oil Stearin® (manufactured by Ranchers Cotton Oil, P.O. Box 2596, Fresno, Calif. 93745 containing 2.2% tripalmitin is first heated to 4 and then cooled and crystallized at 27° F. in an agitated vessel for 3 hours. The precipitate is filtered under vacuum.

reactant | Stearin | CCCCCCCCCCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCCCCCCCCCC)OC(=O)CCCCCCCCCCCCCCCCC | C57H110O6
reactant | tripalmitin | CCCCCCCCCCCCCCCC(OCC(OC(CCCCCCCCCCCCCCC)=O)COC(CCCCCCCCCCCCCCC)=O)=O | C51H98O6
solvent | hexane | CCCCCC | C6H14
product | Stearine | CCCCCCCCCCCCCCCCCC(=O)O.C(C(CO)O)O | InChI=1S/C18H36O2.C3H8O3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20;4-1-3(6)2-5/h2-17H2,1H3,(H,19,20);3-6H,1-2H2
